US07579363B2
2-{2-[(Benzaloxy-formyl-amino)-methyl]-3-oxo-2,3-dihydro-benzo[1,4]thiazin-4-yl}-N-propyl-acetamide
To a solution of 2-{2-[(benzyloxy-formyl-amino)-methyl]-3-oxo-2,3-dihydro-benzo[1,4]thiazin-4-yl}-N-propyl-acetamide (0.13 mmol) in 9 ml of EtOH is added Pd/C (10%) (65.6 mg) followed by 1,4-cyclohexadiene (1.29 mL). The reaction mixture is stirred at room temperature for 12 hours and the final product 2-{2-[(formyl-hydroxy-amino)-methyl]-3-oxo-2,3-dihydro-benzo[1,4]thiazin-4-yl}-N-propyl-acetamide is obtained by preparative LC/MS using 1 to 99% ACN (in the absence of TFA) as gradient. MS: (ES+): 338.2 [M+1].

reactant | 2-{2-[(benzyloxy-formyl-amino)-methyl]-3-oxo-2,3-dihydro-benzo[1,4]thiazin-4-yl}-N-propyl-acetamide | 0.13 mmol | C(C1=CC=CC=C1)ON(C=O)CC1SC2=C(N(C1=O)CC(=O)NCCC)C=CC=C2 | C22H25N3O4S
reactant | 1,4-cyclohexadiene | 1.29 mL | C1=CCC=CC1 | C6H8
solvent | EtOH | 9 ml | CCO | C2H6O
catalyst | Pd/C | 65.6 mg | [Pd] | Pd
product | 2-{2-[(formyl-hydroxy-amino)-methyl]-3-oxo-2,3-dihydro-benzo[1,4]thiazin-4-yl}-N-propyl-acetamide | C(=O)N(O)CC1SC2=C(N(C1=O)CC(=O)NCCC)C=CC=C2 | C15H19N3O4S
